US20010027196A1
To a stirred suspension of 2,45 g (10.0 mmol) 2-amino-4-bromo-6-methylsulfanyl-pyrimidine-5-carbonitrile in 65 ml dioxane at room temperature were added 2.18 g (20.0 mmol) 3-pyridineboronic acid, 1.15 g (1.00 mmol) tetrakis(triphenylphosphine)palladium(O) and 20 ml (40.0 mmol) 2M aqueous sodium carbonate. The reaction mixture was heated at reflux for 48 h, then concentrated in vacuo. Chromatography (1/4 ethyl acetate/hexane) afforded 460 mg (20%) 2-amino-4-methylsulfanyl-6-pyridin-3-yl-pyrimidine-5-carbonitrile as a light yellow crystalline solid. EI-MS m/e (%): 243 (M+, 100), 242 ([M—H]+, 70).

reactant | 2-amino-4-bromo-6-methylsulfanyl-pyrimidine-5-carbonitrile | 10.0 mmol, 2,45 g | NC1=NC(=C(C(=N1)Br)C#N)SC | C6H5BrN4S
reactant | 3-pyridineboronic acid | 20.0 mmol, 2.18 g | N1=CC(=CC=C1)B(O)O | C5H6BNO2
reactant | sodium carbonate | 40.0 mmol, 2M, 20 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | dioxane | 65 ml | O1CCOCC1 | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium(O) | 1.00 mmol, 1.15 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.[Pd]
product | 2-amino-4-methylsulfanyl-6-pyridin-3-yl-pyrimidine-5-carbonitrile | 460 mg, 20% | NC1=NC(=C(C(=N1)SC)C#N)C=1C=NC=CC1 | C11H9N5S
